US09193738B2
To an ice-cooled solution of tert-butyl (4aSR*,5SR*,10bSR*)-5-cyclohexyl-3,4,4a,5,6,10b-hexahydro-2H-pyrano[3,2-c]quinolin-9-ylcarbamate (prepared according to the method described in example 1) (227 mg, 0.587 mmol) in CH2Cl2 (5 mL) under argon atmosphere was added TFA (1.5 mL) dropwise. The reaction solution was allowed to reach r.t. and stirred overnight. The mixture was cooled down and 0.5 N NaOH solution was added until basic pH. The product was extracted with CH2Cl2 three times. The combined organic fractions were washed with sat. NaCl solution, dried over Na2SO4, and the solvent removed under reduced pressure after filtration giving (4aSR*,5SR*,10bSR*)-5-cyclohexyl-3,4,4a,5,6,10b-hexahydro-2H-pyrano[3,2-c]quinolin-9-amine (145 mg, 86%) as orange viscous solid. The product was used without further purification.

reactant | 5-cyclohexyl-3,4,4a,5,6,10b-hexahydro-2H-pyrano[3,2-c]quinolin-9-ylcarbamate | C1(CCCCC1)C1NC=2C=CC(=CC2C2C1CCCO2)NC([O-])=O
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 0.5 N | [OH-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-cyclohexyl-3,4,4a,5,6,10b-hexahydro-2H-pyrano[3,2-c]quinolin-9-amine | 145 mg, 86% | C1(CCCCC1)C1NC=2C=CC(=CC2C2C1CCCO2)N | C18H26N2O
